* DRV603
*****************************************************************************
* (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: DRV603
* Date: 7/11/2012
* Model Type: All In One
* Simulator: Pspice
* Simulator Version: Pspice 16.0.0.p001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SLOS617C - January 2009 - REVISED November 2009
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to web
* Version 2.0 : Improved UVP circuitry
*
*****************************************************************************
* Notes: 
* 1. The following parameters are being modeled: Ao, f-3dB, Slew Rate
*    Max/Min voltage/Current, noise, input voltage offset, current consumption
*    Under voltage protection with hysteresis, Mute.
* 3. The following parameters are not being modeled: PSRR and CMRR
* 4. Charge pump is being modeled using ideal Voltage controlled voltage source
*****************************************************************************
.SUBCKT DRV603 OUT_L -INL GND VSS EN +INL -INR +INR OUT_R VDD UVP
V5          30 31 1M
Vos         37 38 1M
V10         39 GND 3.3
V8          32 GND 1.25
V4          33 GND 3.3
V2          41 GND 500M
V6          40 GND 3.3
V1          34 GND 5.5
XU5         29 VDDx VSSx -INR 30 MUTExx DRV_AMP_EN_0
XVn12       +INR 31 VNSE_0
XU13        33 UVP 32 Comp_Out GND STD_OPA_SE_0
XU3         35 34 VDDx SCLAMP_0
XU2         36 VDDx VSSx -INL 37 MUTExx DRV_AMP_EN_0
R16         29 OUT_R 70M
R15         36 OUT_L 70M
XVn11       +INL 38 VNSE_0
XU7         39 MUTEx MUTExx GND NOT_0
XU8         40 Comp_Out EN MUTEx GND AND_2_0
XU9         40 UVP Comp_Out GND VCVS_2
C7          GND -INR 500F
C3          GND -INL 500F
C2          GND +INR 500F
C1          GND +INL 500F
R4          VSS VSSx 1
XU12        VDD 41 35 SCLAMP_1
R36         EN GND 100K
XU6         GND VSSx VDDx GND VCVS_3
XU1         VSSx VDDx MUTEx GND VCVS_4
XU4         GND_FLT GND VDDx VSSx VCVS_5
.ENDS

.SUBCKT DRV_AMP_EN_0 Vout V+ V- -IN +IN EN
V2          GND_FLOAT_42 55 20
V4          56 GND_FLOAT_42 20
XU8         Max_Current_43 GND_FLOAT_42 EN 46 GND_FLOAT_42 VCTRL_VCVS_0
R4          47 48 10
R3          49 50 10
R2          51 52 10
R1          53 54 10
XU6         52 Max_Current_43 IDEAL_D_0
EVCVS4      51 GND_FLOAT_42 55 Vimon_44  100K
XU2         Max_Current_43 54 IDEAL_D_0
EVCVS3      53 GND_FLOAT_42 56 Vimon_44  100K
XU9         V+ 57 V+ 0 VCVS_6
XU7         58 V- 0 V- VCVS_6
XU3         48 Over_clamp_45 IDEAL_D_0
EVCVS5      47 GND_FLOAT_42 58 Over_clamp_45  100K
XU1         Over_clamp_45 50 IDEAL_D_0
EVCVS2      49 GND_FLOAT_42 57 Over_clamp_45  100K
XR108       Max_Current_43 GND_FLOAT_42 RNOISE_FREE_0
GVCCS12     GND_FLOAT_42 Max_Current_43 59 GND_FLOAT_42  1M
C2          Max_Current_43 GND_FLOAT_42 1P
XU5         GND_FLOAT_42 0 V+ V- VCVS_7
C1          GND_FLOAT_42 Over_clamp_45 100U
XU26        -IN +IN GND_FLOAT_42 60 VCCS_LIMIT_0
XU4         60 GND_FLOAT_42 GND_FLOAT_42 Over_clamp_45 VCCS_LIMIT_1
XR107       59 GND_FLOAT_42 RNOISE_FREE_1
C11         59 GND_FLOAT_42 1F
GVCCS10     GND_FLOAT_42 59 Over_clamp_45 GND_FLOAT_42  -1U
XR104       Over_clamp_45 GND_FLOAT_42 RNOISE_FREE_2
XR103       GND_FLOAT_42 60 RNOISE_FREE_1
VCCVS1_in   46 Vout
HCCVS1      Vimon_44 GND_FLOAT_42 VCCVS1_in   1K
.ENDS


.SUBCKT VNSE_0  1 2
R4 3 0 400E3
E3 1 2 3 0 1
.ENDS

.SUBCKT VCVS_5  VP VN CP CN PARAMS: G = 0.5

E1 VP VN VALUE = {(V(CP) + V(CN))*G}

.ENDS VCVS_5

.SUBCKT STD_OPA_SE_0  VDD VIP VIN VO VSS

.PARAM GAIN = 100E3

EGAIN VO 0 VALUE = {LIMIT(V(VIP,VIN)*GAIN,V(VDD),V(VSS))}

.ENDS STD_OPA_SE_0



.SUBCKT SCLAMP_0   VIN VLIM VOUT

ES1  VIN  VOUT  VALUE = { IF(V(VIN,0)>V(VLIM,0),V(VIN) - V(VLIM),0) }

.ENDS SCLAMP_0


.SUBCKT NOT_0  VDD VI VO VSS

ESLICE VO 0  VALUE = {IF(V(VI)>=V(VCM),V(VSS),V(VDD))}
ECM  VCM  0  VALUE = {(V(VDD,0)+V(VSS,0))*0.5}

.ENDS NOT_0


.SUBCKT AND_2_0  VDD A B Y VSS

ECM  VCM  0  VALUE = {(V(VDD,0)+V(VSS,0))*0.5}
EA  VA  0  VALUE = {IF(V(A)>=V(VCM),1,0)}
EB  VB  0  VALUE = {IF(V(B)>=V(VCM),1,0)}

EY  Y  0  VALUE = {IF(V(VA)*V(VB)>0.5,V(VDD),V(VSS))}

.ENDS AND_2_0


.SUBCKT VCVS_2  VP VN CP CN PARAMS: G = 0.5

G VP VN VALUE = {IF(V(CP,CN) >= 1.65,5U,1N)}

.ENDS VCVS_2


.SUBCKT SCLAMP_1   VIN VLIM VOUT

ES1  VIN  VOUT  VALUE = { IF(V(VIN,0)<= V(VLIM,0),V(VIN) - V(VLIM),0) }

.ENDS SCLAMP_1


.SUBCKT VCVS_3  VP VN CP CN

E VP VN VALUE = {V(CP,CN)}

.ENDS VCVS_3


.SUBCKT VCVS_4  VP VN CP CN PARAMS: G = 0.5

G VP VN VALUE = {IF(V(CP,CN) >= 1.65,-18M,-2M)}

.ENDS VCVS_4




.SUBCKT VCTRL_VCVS_0   CP  CN  DIS  VP  VN PARAMS: VDD = 3.3  GAIN = 1

EVCVS  VP  VN  VALUE = {IF(V(DIS,0) >= VDD/2,0,V(CP,CN)*GAIN)}

.ENDS VCTRL_VCVS_0



.SUBCKT IDEAL_D_0  A C
D1 A C DNOM
.MODEL DNOM D (TT=10P CJO=1E-18 IS=1E-15 RS=1E-3)
.ENDS IDEAL_D_0


.SUBCKT VCVS_6  VP VN CP CN

E VP VN VALUE = {IF(V(CP,CN) >= 3,(V(CP,CN)+0.1)/6.8,0.5)}

.ENDS VCVS_6



.SUBCKT RNOISE_FREE_0  1 2
.PARAM ROHMS=1E3
ERES 1 3 VALUE = { I(VSENSE) * ROHMS }
RDUMMY 30 3 1
VSENSE 30 2 DC 0V
.ENDS RNOISE_FREE_0


.SUBCKT VCVS_7  VP VN CP CN PARAMS: G = 0.5

E1 VP VN VALUE = {(V(CP) + V(CN))*G}

.ENDS VCVS_7


.SUBCKT VCCS_LIMIT_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-3
.PARAM IPOS = .5
.PARAM INEG = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),IPOS,INEG)}
.ENDS VCCS_LIMIT_0


.SUBCKT VCCS_LIMIT_1  VC+ VC- IOUT+ IOUT-
*
.PARAM GAIN = 5
.PARAM IPOS = 450
.PARAM INEG = -450
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),IPOS,INEG)}
.ENDS VCCS_LIMIT_1


.SUBCKT RNOISE_FREE_1  1 2

.PARAM ROHMS=1E6
ERES 1 3 VALUE = { I(VSENSE) * ROHMS }
RDUMMY 30 3 1
VSENSE 30 2 DC 0V
.ENDS RNOISE_FREE_1

.SUBCKT RNOISE_FREE_2  1 2
.PARAM ROHMS=1E4
ERES 1 3 VALUE = { I(VSENSE) * ROHMS }
RDUMMY 30 3 1
VSENSE 30 2 DC 0V
.ENDS RNOISE_FREE_2